US08614327B2
To a solution of N,N-dibenzyl-6-methoxy-5-(trifluoromethyl)pyridin-2-amine (3.0 g, 8.056 mmol) in a mixture of methanol (30 mL) and AcOH (3 mL) was added palladium hydroxide (0.3 g, 0.43 mmol) under a nitrogen atmosphere. The mixture was stirred under hydrogen atmosphere (55 psi, 25° C.) overnight. The catalyst was removed by filtration through a pad of celite and the filtrate was neutralized by saturated Na2CO3. The aqueous layer was extracted with CH2Cl2 (30 mL×3) and the combined organic layers were concentrated under vacuum to give 6-methoxy-5-(trifluoromethyl)pyridin-2-amine (1.4 g, 90%) as a pale yellow solid. 1H NMR (400 MHz, CDCl3) δ 7.56 (d, J=8.4 Hz, 1H), 6.03 (d, J=8.0 Hz, 1H), 4.64 (brs, 2H), 3.93 (s, 3H). MS (ESI) m/e (M+H) 193. 13C NMR (100 MHz, CDCl3) 159.4, 138.0 (d, J=5.9 Hz), 125.9, 122.3, 101.9 (d, J=44.4 Hz), 98.3, 53.6. 19F NMR (282.4 MHz, CDCl3)-62.6.

reactant | N,N-dibenzyl-6-methoxy-5-(trifluoromethyl)pyridin-2-amine | 8.056 mmol, 3.0 g | C(C1=CC=CC=C1)N(C1=NC(=C(C=C1)C(F)(F)F)OC)CC1=CC=CC=C1 | C21H19F3N2O
solvent | methanol | 30 mL | CO | CH4O
solvent | AcOH | 3 mL | CC(=O)O | C2H4O2
catalyst | palladium hydroxide | 0.43 mmol, 0.3 g | [OH-].[Pd+2].[OH-]
product | 6-methoxy-5-(trifluoromethyl)pyridin-2-amine | 1.4 g, 90% | COC1=C(C=CC(=N1)N)C(F)(F)F | C7H7F3N2O
